US07307094B2
A 25-mL, round bottomed flask equipped with a magnetic stirrer was charged with 2-amino-5-chloro-3-hydroxybenzoic acid (0.931 g, 4.96 mmol), trimethyl orthobenzoate (7.23 g, 39.7 mmol), and pyridinium p-toluenesulfonate (0.062 g, 0.248 mmol). After stirring at 90° C. for 1 h, the reaction was diluted with hexanes (30 mL) filtered, and the filter cake dried in a vacuum oven at 40° C. to afford 0.455 g (33% yield) of 6-chloro-2-phenyl-benzoxazole-4-carboxylic acid as a brown solid: 1H NMR (500 MHz, DMSO-d6) δ 8.24 (m, 3H), 7.84 (s, 1H), 7.65 (m, 3H); MS (ESI) m/z 272 (M−H).

reactant | 2-amino-5-chloro-3-hydroxybenzoic acid | 4.96 mmol, 0.931 g | NC1=C(C(=O)O)C=C(C=C1O)Cl | C7H6ClNO3
reactant | trimethyl orthobenzoate | 39.7 mmol, 7.23 g | COC(C1=CC=CC=C1)(OC)OC | C10H14O3
reactant | pyridinium p-toluenesulfonate | 0.248 mmol, 0.062 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
product | 6-chloro-2-phenyl-benzoxazole-4-carboxylic acid | 0.455 g, 33% yield | ClC=1C=C2C(N=C(O2)C2=CC=CC=C2)=C(C1)C(=O)O | C14H8ClNO3
